US08871361B2
Synthesis of 3-methoxy-N-(o-tolyl)benzamide
To a 500 mL 3-neck round bottom flask was added o-toluidine (4.50 g, 42.0 mmol) and 150 mL toluene. The solution was cooled in an ice bath under nitrogen. Trimethylaluminum (2.0 M in toluene, 29.4 ml, 58.8 mmol) was added dropwise via dropping funnel. The reaction mixture was stirred at room temperature for 2 hours under nitrogen. Next, 3-methoxybenzonitrile (7.27 g, 54.6 mmol) in 50 mL toluene was added and the reaction mixture was heated to 70° C. overnight under nitrogen. The reaction mixture was cooled in an ice bath and poured onto a stirring slurry of silica gel in 2:1 dichloromethane/methanol. The silica gel was filtered and washed with dichloromethane and methanol. The filtrate was evaporated leaving a solid. The solid was triturated with hexane, filtered, washed with hexane (6 g, 59%).

reactant | o-toluidine | 42.0 mmol, 4.50 g | NC=1C(=CC=CC1)C | C7H9N
reactant | Trimethylaluminum | 58.8 mmol, 2.0 M, 29.4 ml | C[Al](C)C
reactant | 3-methoxybenzonitrile | 54.6 mmol, 7.27 g | COC=1C=C(C#N)C=CC1 | C8H7NO
reactant | dichloromethane methanol | ClCCl.CO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-N-(o-tolyl)benzamide | COC=1C=C(C(=O)NC2=C(C=CC=C2)C)C=CC1 | C15H15NO2
